US07214798B2
5.1. [1-(1-Isoquinolyl)-4-piperidyl]methanol
The process is performed as described in Example 2 (step 2.1). Starting with 2.50 g (15.28 mmol) of 1-chloroisoquinoline, 1.94 g (136.6 mmol) of 4-piperidylmethanol, 3.53 g (36.67 mmol) of sodium tert-butoxide, 0.285 g (0.46 mmol) of BINAP and 0.140 g (0.15 mmol) of tris(dibenzylideneacetone)dipalladium, and after chromatography on silica gel, eluting with a 98/2/0.2 and then 95/5/0.5 mixture of dichloromethane, methanol and 28% aqueous ammonia, 2.40 g of pure product are obtained in the form of a viscous orange oil.

reactant | 1-chloroisoquinoline | 15.28 mmol, 2.50 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | 4-piperidylmethanol | 136.6 mmol, 1.94 g | N1CCC(CC1)CO | C6H13NO
reactant | sodium tert-butoxide | 36.67 mmol, 3.53 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.46 mmol, 0.285 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.15 mmol, 0.140 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [1-(1-Isoquinolyl)-4-piperidyl]methanol | C1(=NC=CC2=CC=CC=C12)N1CCC(CC1)CO | C15H18N2O
